US04065456
2.0 g of potassium hydroxide was dissolved in 80 ml of methanol, and 5.2 g of 1-ethyl-5-hydroxy-3,4-dihydrocarbostyril and 5.0 g of glycerol α-bromohydrin were added to the resulting solution followed by refluxing the mixture for 4 hours. The mixture was then worked up in the same manner as described in Example 1 to obtain a residue after removal of the chloroform by distillation. The residue thus obtained was recrystallized from ethyl acetate to give 1.9 g of 1-ethyl-5-(2,3-dihydroxy)propoxy-3,4-dihydrocarbostyril as a colorless amorphous solid having a melting point of 105° - 107° C.

reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | 1-ethyl-5-hydroxy-3,4-dihydrocarbostyril | 5.2 g | C(C)N1C(=O)CCC2=C(C=CC=C12)O | C11H13NO2
solvent | methanol | 80 ml | CO | CH4O
product | 1-ethyl-5-(2,3-dihydroxy)propoxy-3,4-dihydrocarbostyril | 1.9 g | C(C)N1C(=O)CCC2=C(C=CC=C12)OCC(CO)O | C14H19NO4
